US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(4-methoxy-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CIII)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 4-Methoxy-pyridine-3-carbaldehyde (22.3 mg, 0.163) were reacted to produce 29 mg (43%) of the title compound. mp: 160° C., 1H NMR (300 MHz, DMSO-d6): 12.69 (s, 1H), 9.11 (s, 1H), 8.54 (d, J=8 Hz, 1H), 8.07 (s, 1H), 7.74 (s, 1H), 7.27 (d, J=8 Hz, 1H), 7.21 (s, 1H), 7.17 (d, J=9 Hz, 1H), 6.35 (s, 2H), 5.26 (t, J=8 Hz, 1H), 4.02 (s, 3H), 3.38 (q, J=8 Hz, 1H), 3.32 (s, 1H), 2.89 (s, 1H), 2.78 (s, 1H), 2.63 (d, J=8 Hz, 1H), 2.26 (d, J=8 Hz, 1H), 1.40 (d, J=8 Hz, 1H), 1.09 (t, J=8 Hz, 1H). MS: 455, 457 (M+H), HPLC: 1.64 min (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 4-Methoxy-pyridine-3-carbaldehyde | 22.3 mg | COC1=C(C=NC=C1)C=O | C7H7NO2
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(4-methoxy-pyridin-3-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 29 mg, 43% | BrC=1C(=C2C(=NC1)NC(=N2)C=2C=NC=CC2OC)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C20H19BrN6O2
